US07384963B2
N-(2-Methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 2-methoxybenzylamine using method N. NMR; δH [2H6]—DMSO 8.95,(1H, t), 8.02,(2H, d), 7.90,(1H, dd), 7.77,(1H, d), 7.56-7.51,(3H, m), 7.26-7.19,(2H, m), 7.00,(1H, d), 6.91,(1H, t), 4.48,(2H, d), 3.83,(3H, s), 2.56,(3H, s), 2.32,(3H, s). LCMS; retention time 3.41 min, MH+ 414.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
product | N-(2-Methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | COC1=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=CC=C1 | C25H23N3O3
